US07550505B2
3-(2-phenylphenylsulfonyl)-N-(4-Cyano-3-(trifluoromethyl)phenyl)-2-hydroxy-2-methylpropanamide, (PLM4)
To a solution of 3-(2-phenylphenylthio)-N-(4-Cyano-3-(trifluoromethyl)phenyl)-2-hydroxy-2-methylpropanamide (41 mg, 0.093 mmol) in dichloromethane (0.13 mL) at −78° C. was added 30% hydrogen peroxide (15.5 μL, 0.54 mmol) followed by the slow addition of trifluoroacetic anhydride (63 μL, 0.45 mmol). The reaction was stirred at room temperature for 16 h. The reaction was diluted with dichloromethane. Cold water and brine were added, and the reaction was stirred for 20 minutes. The organic layer was separated, dried over magnesium sulfate, filtered and evaporated. Purification by column chromatography (hexane:EtOAc 50:50) yielded 23 mg of desired product. Production of PLM4 was confirmed by 1-H NMR and 13-C NMR.

reactant | 3-(2-phenylphenylthio)-N-(4-Cyano-3-(trifluoromethyl)phenyl)-2-hydroxy-2-methylpropanamide | 0.093 mmol, 41 mg | C1(=CC=CC=C1)C1=C(C=CC=C1)SCC(C(=O)NC1=CC(=C(C=C1)C#N)C(F)(F)F)(C)O | C24H19F3N2O2S
reactant | hydrogen peroxide | 0.54 mmol, 15.5 μL | OO | H2O2
reactant | trifluoroacetic anhydride | 0.45 mmol, 63 μL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | O | H2O
solvent | dichloromethane | 0.13 mL | ClCCl | CH2Cl2
solvent | brine | [Cl-].[Na+].O
product | 3-(2-phenylphenylsulfonyl)-N-(4-Cyano-3-(trifluoromethyl)phenyl)-2-hydroxy-2-methylpropanamide | 23 mg | C1(=CC=CC=C1)C1=C(C=CC=C1)S(=O)(=O)CC(C(=O)NC1=CC(=C(C=C1)C#N)C(F)(F)F)(C)O | C24H19F3N2O4S
